US04782056
2-[3,5-Dichloro-4-(4-methylthiophenoxy)phenyl]hexahydro-1,2,4-triazine-3,5-dione
20 g of 2-[3,5-dichloro-4-(4-methylthiophenoxy)phenyl]-1,2,4-triazine-3,5-(2H,4H)-dione were dissolved in 200 ml of hot glacial acetic acid. 25 g of tin(II) chloride.2H2O, followed by 100 ml of concentrated hydrochloric acid, were added, and then the mixture was heated to reflux for four hours. After the mixture had been cooled, the product was filtered off with suction, washed to neutrality with water, and recrystallized from 2-methoxyethanol, melting point 239° C.

reactant | 2-[3,5-dichloro-4-(4-methylthiophenoxy)phenyl]-1,2,4-triazine-3,5-(2H,4H)-dione | 20 g | ClC=1C=C(C=C(C1SC1=CC=C(C=C1)C)Cl)N1N=CC(NC1=O)=O | C16H11Cl2N3O2S
reactant | tin(II) chloride | 25 g | [Sn](Cl)Cl
reactant | hydrochloric acid | 100 ml | Cl | ClH
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | 2-[3,5-Dichloro-4-(4-methylthiophenoxy)phenyl]hexahydro-1,2,4-triazine-3,5-dione | ClC=1C=C(C=C(C1SC1=CC=C(C=C1)C)Cl)N1NCC(NC1=O)=O | C16H13Cl2N3O2S
